US06492383B1
(1H-indol-5-yl)-(6-thiophen-3-yl-thieno[3,2-d]pyrimidin-4-yl)-amine
The title compound was prepared from thiophene-3-boronic acid and (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 2. 1H NMR (400 MHz, DMSO) d 11.4 (s, 1H), 11.2 (s, 1H), 8.86 (s, 1H), 8.10 (s, 1H), 7.70 (m, 3H), 7.46 (m, 3H), 7.21 (d, 1H), 6.49 (s, 1H), M.P. 178-189° C.; LC-MS: 349 (MH+); HPLC RT 4.05 minutes.

reactant | thiophene-3-boronic acid | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine | BrC1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C14H9BrN4S
product | (1H-indol-5-yl)-(6-thiophen-3-yl-thieno[3,2-d]pyrimidin-4-yl)-amine | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CSC=C2 | C18H12N4S2
